US05399290
About 33.3 g (0.2 mol) of 4-(3-butenyl)-1-chlorobenzene prepared in accordance with Example 1 (b) were silylated with 2,4,4-trimethyl-2,4-disilapentane (compare Example 1 (d) with Pt as catalyst to give 1-chloro-4-(5,5,7,7-tetramethyl-5,7disilaoctyl)benzene. The boiling point was 115° C. under 0.05 hPa, and the yield was 70.8% of theory.

reactant | 4-(3-butenyl)-1-chlorobenzene | 0.2 mol, 33.3 g | C(CC=C)C1=CC=C(C=C1)Cl | C10H11Cl
reactant | 2,4,4-trimethyl-2,4-disilapentane | C[SiH](C)C[Si](C)(C)C | C6H18Si2
product | 1-chloro-4-(5,5,7,7-tetramethyl-5,7disilaoctyl)benzene | yield was 70.8% | ClC1=CC=C(C=C1)CCCC[Si](C[Si](C)(C)C)(C)C | C16H29ClSi2
